US08124768B2
The following materials were added to a 2-L CHEMGLASS® reactor: 3-chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine (110.00 g, 221 mmol), isopropyl alcohol (990.00 mL), ammonium sulfide (˜40% in water, 297.00 mL, 2324 mmol). The mixture was allowed to stir at 20° C. for 3-4 h. 3-Chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine was not detected by HPLC analysis. The reaction mixture was heated to 70° C. and allowed to stir for 3-4 h. Once the reaction was complete, water (14 mL/g·LR) was added. The reaction mixture was cooled to 20° C. (reaction temp) over 1 h. Upon cooling a solid precipitated and was filtered off and washed with water (12.5 mL/g·LR), followed by heptane:MTBE (4:1; 5 mL/g·LR). After LOD (˜25%), 95.3 g of crude 4-(4-amino-2-fluorophenoxy)-3-chloro-N-(diphenylmethylene)pyridin-2-amine (90AP) was obtained. The crude 4-(4-amino-2-fluorophenoxy)-3-chloro-N-(diphenylmethylene)pyridin-2-amine was dissolved into n-BuOAc (7 mL/g·LR) by heating to approximately 85° C. At 85° C., heptane (7 mL/g·LR) was added dropwise until the solution became cloudy. The solution was then allowed to cool to 20° C. with stirring. Once at 20° C., the slurry was aged for 8 h. The solid was filtered, washed with heptane (5 mL/g·LR), and then dried overnight in a vacuum oven at 60° C. to afford 4-(4-amino-2-fluorophenoxy)-3-chloro-N-(diphenylmethylene)pyridin-2-amine (62.53 g; 67.69% yield) as a faint yellow solid. 1H NMR (CDCl3) δ 6.23 (dd, 1H, J=1.0, 5.6 Hz), 6.43 (m, 1H), 6.49 (dd, 1H, J=2.5, 12.1 Hz), 6.92 (t, 1H, J=8.6 Hz), 7.25-7.60 (m, 8H), 7.87 (m, 2H), 7.95 (d, 1H, J=6.1 Hz); MS (ESI+) m/z 418.6 (M+H)+.

reactant | 3-chloro-N-(diphenylmethylene)-4-(2-fluoro-4-nitrophenoxy)pyridin-2-amine | 221 mmol, 110.00 g | ClC=1C(=NC=CC1OC1=C(C=C(C=C1)[N+](=O)[O-])F)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H15ClFN3O3
reactant | isopropyl alcohol | 990.00 mL | C(C)(C)O | C3H8O
reactant | ammonium sulfide | 2324 mmol, 297.00 mL | [NH4+]=S
solvent | water | O | H2O
product | 4-(4-amino-2-fluorophenoxy)-3-chloro-N-(diphenylmethylene)pyridin-2-amine | 95.3 g | NC1=CC(=C(OC2=C(C(=NC=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)Cl)C=C1)F | C24H17ClFN3O
